US07728030B2
tert-butyl[(1S)-1-methyl-2-(2-naphthyl)-2-oxoethyl]carbamate (20d)
The subtitle compound was prepared analogous to the method described in Example 19 (step 19d), starting from (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate (1.86 g, 8 mmol) and a freshly prepared 2-Naphthylmagnesiumbromide 1M solution in THF (8 mL, 8 mmol). The obtained material was crystallised from Heptane. Yield 350 mg (14%).

reactant | (S)-tert-butyl 1-(methoxy(methyl)amino)-1-oxopropan-2-ylcarbamate | 8 mmol, 1.86 g | CON(C([C@H](C)NC(OC(C)(C)C)=O)=O)C | C10H20N2O4
reactant | 2-Naphthylmagnesiumbromide | 1M | C1=C(C=CC2=CC=CC=C12)[Mg]Br
reactant | THF | 8 mmol, 8 mL | C1CCOC1 | C4H8O
product | tert-butyl[(1S)-1-methyl-2-(2-naphthyl)-2-oxoethyl]carbamate | C(C)(C)(C)OC(N[C@H](C(=O)C1=CC2=CC=CC=C2C=C1)C)=O | C18H21NO3
